US09056859B2
A solution of tert-butyl 4-[2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)cyclopropyl]piperazine-1-carboxylate (30 mg, 0.08 mmol) in 5 mL of DCM was added 3 mL of 4N HCl/dioxane, and then the mixture was stirred at room temperature for 2 hours. The solvents was removed off under vacuum to afford 5-[2-(piperazin-1-yl)cyclopropyl]-2-benzofuran-1(3H)-one.

reactant | tert-butyl 4-[2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)cyclopropyl]piperazine-1-carboxylate | 0.08 mmol, 30 mg | O=C1OCC2=C1C=CC(=C2)C2C(C2)N2CCN(CC2)C(=O)OC(C)(C)C | C20H26N2O4
reactant | HCl dioxane | 4N, 3 mL | Cl.O1CCOCC1
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-(piperazin-1-yl)cyclopropyl]-2-benzofuran-1(3H)-one | N1(CCNCC1)C1C(C1)C1=CC2=C(C(OC2)=O)C=C1 | C15H18N2O2
